US04678781
The starting material may be obtained as follows: Reaction of 4-methylthiopyridine with 4 equivalents of N-acetyl-2-chloroethylamine at 80° for 4 hours gave, after precipitation from CH2Cl2 solution with EtOAc, 1-(2-acetylaminoethyl)-4-methylthiopyridinium chloride in solvent B: 1.76(s, 3H); 2.69(s, 3H); 3.6(t, 2H); 4.5(t, 2H); 7.87(d, 2H); 8.64(d, 2H). This compound was reacted with one equivalent of metachlorperbenzoic acid in CH2Cl2 /TFA at 0° to ambient temperature for 30 minutes. The product was precipitated from CH2Cl2 /MeOH solution with ether to give 1-(2-acetylaminoethyl)-4-methanesulphinylpyridinium chloride. n.m.r. in solvent B: 1.76(s, 3H); 3.0(s, 3H); 3.66(t, 2H); 4.74(t, 2H); 8.47(d, 2H); 9.22(d, 2H).

reactant | 4-methylthiopyridine | CSC1=CC=NC=C1 | C6H7NS
reactant | N-acetyl-2-chloroethylamine | 4 equivalents | C(C)(=O)NCCCl | C4H8ClNO
reactant | metachlorperbenzoic acid | one equivalent | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | CH2Cl2 TFA | C(Cl)Cl.C(=O)(C(F)(F)F)O
product | 1-(2-acetylaminoethyl)-4-methanesulphinylpyridinium chloride | [Cl-].C(C)(=O)NCC[N+]1=CC=C(C=C1)S(=O)C | InChI=1S/C10H14N2O2S.ClH/c1-9(13)11-5-8-12-6-3-10(4-7-12)15(2)14;/h3-4,6-7H,5,8H2,1-2H3;1H
